US04182776
Ethyl p-[2-phenoxyethylamino)benzoate
A mixture of 33 g of ethyl p-aminobenzoate, 80 ml of hexamethylphosphoramide and 20.1 g of β-bromophenetole is heated at 110° C. for 20 hours. The mixture is cooled, diluted with 25 ml of water, chilled, filtered and the solid washed with ethanol and with water to give crystals, mp 126°-129° C. Recrystallization from ethanol gives pale yellow crystals, mp 129°-131° C.

reactant | ethyl p-aminobenzoate | 33 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | hexamethylphosphoramide | 80 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | β-bromophenetole | 20.1 g | BrCCOC1=CC=CC=C1 | C8H9BrO
solvent | water | 25 ml | O | H2O
product | Ethyl p-[2-phenoxyethylamino)benzoate | O(C1=CC=CC=C1)CCNC1=CC=C(C(=O)OCC)C=C1 | C17H19NO3
